US05880147
N-(2-t-Butyl-5-formylphenyl)-3-(2-trifluoromethylphenyl)octanamide
5.6 g of manganese dioxide were added to a solution of 560 mg (1.3 mmol) of N-[2-t-butyl-5-(hydroxymethyl)phenyl]-3-(2-trifluoromethyl-phenyl)octanamide (prepared as described in Preparation 19) in 20 ml of methylene chloride, and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was then filtered using a Celite (trade mark) filter aid, and the manganese dioxide used was washed several times with methylene chloride. The filtrate was combined with the washings and the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using a 1:2 by volume mixture of ethyl acetate and hexane as the eluent, to give 511 mg (yield 91%) of the title compound.

reactant | N-[2-t-butyl-5-(hydroxymethyl)phenyl]-3-(2-trifluoromethyl-phenyl)octanamide | 1.3 mmol, 560 mg | C(C)(C)(C)C1=C(C=C(C=C1)CO)NC(CC(CCCCC)C1=C(C=CC=C1)C(F)(F)F)=O | C26H34F3NO2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 5.6 g | [O-2].[O-2].[Mn+4]
product | N-(2-t-Butyl-5-formylphenyl)-3-(2-trifluoromethylphenyl)octanamide | 511 mg, yield 91% | C(C)(C)(C)C1=C(C=C(C=C1)C=O)NC(CC(CCCCC)C1=C(C=CC=C1)C(F)(F)F)=O | C26H32F3NO2
